US07094801B2
Ex-46C: 2-(5-[1.3]Dioxolan-2-yl-2,4-dimethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Ex-46B, 2.22 g, 6.60 mmol, containing borolane impurity) was dissolved in DME (60 mL) and 2-iodopyrazine (0.59 mL, 6.0 mmol) was added. 2M aqueous Na2CO3 (17.8 mL, 35.6 mmol) was added and the mixture was purged with nitrogen for 20 min. Tetrakis(triphenylphosphine)palladium(0) (0.69 g, 0.60 mmol) was added and the mixture was heated at reflux for 2.5 h. After cooling, water (50 mL) was added and the mixture was extracted with CH2Cl2 (2×30 mL). The organic phase was washed with brine (1×20 mL), dried over sodium sulfate, filtered, and concentrated. Purification of the resulting yellow-orange solids via silica chromatography (50–80% EtOAc/hexanes) provided 1.02 g of 2-(5-[1,3]dioxolan-2-yl-2,4-dimethoxy-phenyl)-pyrazine as a yellow solid (59% yield). 1H-NMR (CDCl3) δ 9.10 (d, J=2 Hz, 1H), 8.61 (m, 1H), 8.39 (d, J=3 Hz, 1H), 8.07 (s, 1H), 6.57 (s, 1H), 6.14 (s, 1H), 4.13–4.18 (m, 2H), 4.01–4.05 (m, 2H), 3.95 (s, 3H), 3.93 (s, 3H).

reactant | 2-(5-[1.3]Dioxolan-2-yl-2,4-dimethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 6.60 mmol, 2.22 g | O1C(OCC1)C=1C(=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)OC)OC | C17H25BO6
reactant | 2-iodopyrazine | 6.0 mmol, 0.59 mL | IC1=NC=CN=C1 | C4H3IN2
reactant | Na2CO3 | 35.6 mmol, 2M, 17.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 50 mL | O | H2O
solvent | DME | 60 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.60 mmol, 0.69 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-[1,3]dioxolan-2-yl-2,4-dimethoxy-phenyl)-pyrazine | 1.02 g, 59% yield | O1C(OCC1)C=1C(=CC(=C(C1)C1=NC=CN=C1)OC)OC | C15H16N2O4
